US07141561B2
1-(4-Aminophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
A solution of N-{4-[2-oxo-3-(4-phenoxyphenyl)-2,3-dihydroimidazol-1-yl]phenyl}acetamide (4.0 g) in ethanol (100 ml) was heated to reflux with hydrochloric acid (20% strength, 30 ml) for 16 hours. After cooling, ammonia solution (10% strength) was added until the reaction was basic. The precipitated solid was filtered off and dried in a vacuum oven at 40° C. The product with the molecular weight of 343.39 (C21H17N3O2); MS (ESI): 344 ([M+H]+) was obtained in this way.

reactant | N-{4-[2-oxo-3-(4-phenoxyphenyl)-2,3-dihydroimidazol-1-yl]phenyl}acetamide | 4.0 g | O=C1N(C=CN1C1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)NC(C)=O | C23H19N3O3
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(4-Aminophenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | NC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H17N3O2
